US07795236B2
(3′-Nitrobiphenyl-4-yl)methanol
The title compound was prepared in a similar manner to that described in Reference Example 2 using 1-bromo-3-nitrobenzene instead of tert-butyl N-(4-bromobenzyl) carbamate and 4-hydroxymethylphenylboronic acid instead of 3-benzyloxyphenylboronic acid.

reactant | 1-bromo-3-nitrobenzene | BrC1=CC(=CC=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | 4-hydroxymethylphenylboronic acid | OCC1=CC=C(C=C1)B(O)O | C7H9BO3
product | (3′-Nitrobiphenyl-4-yl)methanol | [N+](=O)([O-])C=1C=C(C=CC1)C1=CC=C(C=C1)CO | C13H11NO3
